US05648448
Preparation of 6-chloro-2-(4-fluorophenyl)-4-phenylquinoline of the structure:
A three-necked, 2 L round-bottomed flask equipped with a thermometer, a mechanical stirrer, and a distillation unit fitted with a nitrogen inlet valve was charged with 2-amino-5-chlorobenzophenone (695.0 g, 3.00 mol), 4'-fluoroacetophenone (456.0 g, 3.30 mol), and p-tosic acid (47.62 g, 0.25 mol). The reaction mixture was heated under nitrogen at 165° C. (44 h). The yellow 4'-acetophenone that co-distilled with the water was separated and reintroduced to the reaction mixture through the heating period. The mixture was further heated to 190° C. (2 h). The mixture was cooled to 120° C. and poured into 95% ethanol (10 L) while vigorously stirring with a mechanical stirring rod setup. The mixture was filtered and the precipitate washed with ethanol (1 L). The solid was dried in a vacuum oven at 80° C. (16 h). Yield 969 g., 97%; mp 141.0°-142.1° C.

reactant | 2-amino-5-chlorobenzophenone | 3.00 mol, 695.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | 4'-fluoroacetophenone | 3.30 mol, 456.0 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
product | 6-chloro-2-(4-fluorophenyl)-4-phenylquinoline | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C21H13ClFN
